US08624034B2
Step E) (2R)-4-[5-Fluoro-2-oxo-4-(4-{[trans-4-(tetrahydro-2H-pyran-2-yloxy)cyclohexyl]methoxy}-phenyl)pyridin-1(2H)-yl]-2-methyl-2-(methylsulfonyl)butanoic acid
Aqueous lithium hydroxide (2.0 M, 5.8 mL, 2.3 mmol) was added to a solution of ethyl (2R)-4-[5-fluoro-2-oxo-4-(4-{[trans-4-(tetrahydro-2H-pyran-2-yloxy)cyclohexyl]methoxy}-phenyl)pyridin-1(2H)-yl]-2-methyl-2-(methylsulfonyl)butanoate (1.4 g, 2.3 mmol) in ethanol (40 mL). The reaction was heated to 50° C. for 3 h. The reaction was allowed to cool to ambient temperature and then acidified to a pH of ˜3 with 1.0 N aq. HCl. The mixture was extracted with EtOAc (3×150 mL). The combined organic phases were dried (Na2SO4), filtered, and concentrated under reduced pressure to afford the title compound as a white solid (1.28 g, 98%). MS (LCMS) m/z 580.3 (M+1).

reactant | lithium hydroxide | 2.3 mmol, 2.0 M, 5.8 mL | [OH-].[Li+]
reactant | ethyl (2R)-4-[5-fluoro-2-oxo-4-(4-{[trans-4-(tetrahydro-2H-pyran-2-yloxy)cyclohexyl]methoxy}-phenyl)pyridin-1(2H)-yl]-2-methyl-2-(methylsulfonyl)butanoate | 2.3 mmol, 1.4 g | FC=1C(=CC(N(C1)CC[C@](C(=O)OCC)(S(=O)(=O)C)C)=O)C1=CC=C(C=C1)OC[C@@H]1CC[C@H](CC1)OC1OCCCC1 | C31H42FNO8S
reactant | HCl | 1.0 N | Cl | ClH
solvent | ethanol | 40 mL | C(C)O | C2H6O
product | (2R)-4-[5-Fluoro-2-oxo-4-(4-{[trans-4-(tetrahydro-2H-pyran-2-yloxy)cyclohexyl]methoxy}-phenyl)pyridin-1(2H)-yl]-2-methyl-2-(methylsulfonyl)butanoic acid | 1.28 g, 98% | FC=1C(=CC(N(C1)CC[C@](C(=O)O)(S(=O)(=O)C)C)=O)C1=CC=C(C=C1)OC[C@@H]1CC[C@H](CC1)OC1OCCCC1 | C29H38FNO8S
